US05212173
2.57 g of N-[2-((1R,3R,4S)-1-methyl-4-isopropylcyclohex-3-yloxy)ethyl]-N-(2-hyd roxyethyl)-N-methylamine were dissolved in 100 ml of tetrahydrofuran. 0.48 g of a 50% strength sodium hydride dispersion was added at room temperature, and the reaction mixture was heated under reflux for 3 hours. A solution of 1.1 g of ethyl bromide in 20 ml of tetrahydrofuran was then added dropwise to the reaction solution at boiling temperature, and the reaction solution was heated under reflux for a further 6 hours. The reaction solution was worked up by adding 2 ml of water and concentrating the mixture under reduced pressure. The remaining residue was purified by chromatography on silica gel using n-hexane/dichloromethane/methanol as the eluent. 0.55 g of oily N-[2-((1R,3R,4S)-1-methyl-4-isopropylcyclohex-3-yloxy)ethyl]-N-(2-etho xyethyl)-N-methylamine was obtained. [α]D20 =-51.20° (c=1; methanol)

reactant | N-[2-((1R,3R,4S)-1-methyl-4-isopropylcyclohex-3-yloxy)ethyl]-N-(2-hyd roxyethyl)-N-methylamine | 2.57 g | C[C@H]1C[C@H]([C@@H](CC1)C(C)C)OCCN(C)CCO | C15H31NO2
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl bromide | 1.1 g | C(C)Br | C2H5Br
reactant | water | 2 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-[2-((1R,3R,4S)-1-methyl-4-isopropylcyclohex-3-yloxy)ethyl]-N-(2-etho xyethyl)-N-methylamine | 0.55 g | C[C@H]1C[C@H]([C@@H](CC1)C(C)C)OCCN(C)CCOCC | C17H35NO2
